* Generated by electronics_design from a KiCad schematic
.include "models.lib"
.model D D
XS1 sout 0 cllower 0 sw1 thr=0 ron=1
V2 in 0 350
R2 out 0 0.2
D2 N005 out D
D3 0 sout D
D1 N004 out D
R1 N001 N002 2.2m
V1 cllower 0 PULSE(0 5 6.5u 200n 200n {pw} 13u)
C1 sout N001 96n
XT1 N003 0 N005 0 N004 L1L2L3
C2 out 0 3600u
XS3 in sout clupper 0 sw1 thr=0 ron=1
D4 sout in D
V3 clupper 0 PULSE(0 5 2n 200n 200n {pw} 13u)
L1 N002 N003 15u Rser=1m
.options chgtol=1e-11 abstol=1u
.param pw=2.85u
.tran 1
.backanno
.end
